US08252781B2
Under an argon atmosphere, a solution of benzyl 2-(adamantan-2-ylidene)hydrazinecarboxylate (1.60 g, 5.40 mmol) in tetrahydrofuran (54 mL) was added with sodium cyanoborohydride (370 mg, 5.90 mmol) at room temperature, to which a solution of p-toluenesulfonic acid monohydrate (190 mg, 1.00 mmol) in tetrahydrofuran (10 mL) was dropped. The resultant was stirred at the same temperature for 5 hours. The reaction solution was added with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, and benzyl 2-(adamantan-2-yl)hydrazinecarboxylate (1.54 g, 94.9%) was obtained as a white crystalline powder.

reactant | benzyl 2-(adamantan-2-ylidene)hydrazinecarboxylate | 5.40 mmol, 1.60 g | C12C(C3CC(CC(C1)C3)C2)=NNC(=O)OCC2=CC=CC=C2 | C18H22N2O2
reactant | sodium cyanoborohydride | 5.90 mmol, 370 mg | C(#N)[BH3-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 1.00 mmol, 190 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 54 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | benzyl 2-(adamantan-2-yl)hydrazinecarboxylate | 1.54 g, 94.9% | C12C(C3CC(CC(C1)C3)C2)NNC(=O)OCC2=CC=CC=C2 | C18H24N2O2
